US05466850
According to the present invention, silicon hydride substrates, such as, for example, alkyl, cycloalkyl, alkoxy, aryl, aryloxy or siloxy silanes containing at least one silicon hydride bond, are treated with hydrogen fluoride to give high yields of the corresponding silicon fluorides with the concomitant generation of hydrogen. In one embodiment of the invention hydrogen fluoride is contacted with triethoxysilane to give a near quantitative yield of fluorotriethoxysilane, with surprisingly little contamination of the desired product by material formed by substitution of fluoride for ethoxy.

reactant | hydrogen fluoride | F | FH
reactant | triethoxysilane | C(C)O[SiH](OCC)OCC | C6H16O3Si
product | fluorotriethoxysilane | quantitative yield | F[Si](OCC)(OCC)OCC | C6H15FO3Si
